US09340544B2
(2-Chloro-9-methyl-9H-purin-6-yl)-phenethyl-amine
Was prepared according to Example 4 from 9-methyl-2,6-dichloro-9H-purine and phenethyl-amine.

reactant | 9-methyl-2,6-dichloro-9H-purine | CN1C2=NC(=NC(=C2N=C1)Cl)Cl | C6H4Cl2N4
reactant | phenethyl-amine | C(CC1=CC=CC=C1)N | C8H11N
product | (2-Chloro-9-methyl-9H-purin-6-yl)-phenethyl-amine | ClC1=NC(=C2N=CN(C2=N1)C)NCCC1=CC=CC=C1 | C14H14ClN5
